Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Major Surgical or Invasive Procedure:
Coronary angiography ___
 
History of Present Illness:
Mr. ___ is a ___ with H/O hypertension, hyperlipidemia, and 
MGUS who presented to the emergency department with 2 days of 
lightheadedness and palpitations along with vague chest 
pressure.

The patient said that he has been having these symptoms for the 
past week or so. Every day, he would feel lightheadedness and 
palpitations along with chest pressure. This is not exacerbated 
by exertion and was not improved by rest. These symptoms last a 
few minutes at a time.

The patient has no known coronary disease. He was worked up in 
___ for chest pain. At that time, pain typically occurred at 
rest, in retrosternal region, without radiation or associated 
symptoms (with perhaps shortness of breath once). He had no 
change in exercise capacity. He underwent coronary angiography 
in ___ for silent ischemia by ECG on a non-imaging ETT to 8.8 
METs which showed a right dominant system with no 
angiographically apparent CAD.

Patient denied fever, chills, shortness of breath, cough, 
abdominal pain, nausea, vomiting, diarrhea, headache, or vision 
changes. 

In the ED, initial vitals: T 98 HR 66 BP 158/68 RR 20 O2 98% on 
RA. Exam was benign. EKG showed lateral ST depressions new from 
prior ECG. Labs/studies notable for Troponin-T <0.01 X 2, Cr 1 
Hgb/Hct 5.1/190 WBC 5.1. UA 40 ketones. Exercise stress 
echocardiogram to ___ METs provoked fatigue but not chest pain. 
There were ischemic ECG changes inferolaterally, whilst the 
echocardiogram images showed appropriate LV augmentation after 
exercise. Patient was given atorvastatin, baclofen, clonazepam, 
lisinopril and started on a heparin infusion. Cardiology was 
consulted and recommended medical management and admission with 
plan for elective catheterization after the weekend. Vitals on 
transfer: T 98.8 HR 62 BP 112/70 RR 17 O2 97% on RA.

After arrival to the cardiology ward, the patient denied chest 
pain and otherwise felt well.
 
REVIEW OF SYSTEMS: 
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope, or presyncope. 
 
On further review of systems, he denied any prior history of 
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding at the time of surgery, myalgias, joint pains, cough, 
hemoptysis, black stools or red stools. He denied exertional 
buttock or calf pain, recent fevers, chills or rigors. All of 
the other review of systems were negative.
 
Past Medical History:
1. CAD RISK FACTORS  
- Hypertension  
- Dyslipidemia
- Sedentary lifestyle  
2. CARDIAC HISTORY  
- Chest pain
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None
- Prior coronary angiograph ___: Right dominant. LMCA, LAD, 
LCX, RCA: No angiographically apparent CAD.
- PACING/ICD: None
3. OTHER PAST MEDICAL HISTORY  
- MGUS
- Gastritis
 
Social History:
___
Family History:
Father ___ from suicide
Brother with congenital heart disease
 
Physical Exam:
GENERAL: Elderly white man in NAD. 
CARDIAC: RRR, normal S1, S2. No murmurs
LUNGS: CTAB--No crackles, wheezes or rhonchi. 
ABDOMEN: Soft, non-tender, not distended. No HSM.
EXTREMITIES: No clubbing, cyanosis or edema
 
Pertinent Results:
___ 01:08PM BLOOD WBC-5.1 RBC-4.45* Hgb-14.6 Hct-44.2 
MCV-99* MCH-32.8* MCHC-33.0 RDW-13.3 RDWSD-49.1* Plt ___
___ 01:08PM BLOOD Neuts-68.9 ___ Monos-9.1 Eos-1.4 
Baso-0.6 Im ___ AbsNeut-3.48 AbsLymp-0.98* AbsMono-0.46 
AbsEos-0.07 AbsBaso-0.03
___ 01:08PM BLOOD ___ PTT-26.9 ___

___ 01:08PM BLOOD Glucose-104* UreaN-19 Creat-1.0 Na-139 
K-4.8 Cl-102 HCO3-22 AnGap-15

___ 01:08PM BLOOD cTropnT-<0.01
___ 07:20PM BLOOD cTropnT-<0.01
___ 06:27AM BLOOD CK-MB-1 cTropnT-<0.01

ECG ___ 12:24:08 
Sinus rhythm. Nonspecific ST-T wave abnormalities. no 
significant change

Exercise stress echocardiogram ___:
Type of stress/symptoms: The patient exercised on a modified 
___ treadmill (3 min stages) protocol for 7 min 17 sec (5.2 
METS) representing a fair exercise capacity for age and gender. 
The test was stopped due to fatigue. The patient had no symptoms 
at rest/prior to stress. In response to stress, the patient had 
no symptoms.
Hemodynamics: At rest, the blood pressure was 124/70 mmHg and 
the heart rate was 62 bpm. In response to stress, the heart rate 
increased to 131 bpm (91% APMHR) with a peak systolic blood 
pressure of 188mmHg (peak rate-pressure product = ___.
ECG: The resting ECG showed sinus rhythm with frequent atrial 
premature contractions and non-specific STT wave changes. The 
stress ECG showed showed ischemic changes with 1-1.5 mm 
horizontal STD in the inferolateral leads and 0.5 mm STE in avR 
an avL. These changes began in the first minute of recovery and 
resolved with rest. During stress there were rare atrial 
premature beats and isolated ventricular premature beats.
Rest Echo: Resting echo images demonstrated mild symmetric left 
ventricular hypertrophy with a normal cavity size. There is 
normal regional left ventricular systolic function. Overall left 
ventricular systolic function is normal. The right ventricular 
cavity size is normal with normal free wall motion. There is no 
pericardial effusion. Doppler demonstrates no aortic valve 
stenosis, no aortic regurgitation, mild [1+] mitral 
regurgitation and no resting left ventricular outflow tract 
gradient. The resting estimated pulmonary artery systolic 
pressure is normal.
Stress Echo: Echo images were acquired within post stress at 
heart rates of 111 to 69 bpm. These demonstrated appropriate 
augmentation of all left ventricular segments. The E/e' was 7 at 
seconds after exercise and similar to baseline. This suggests no 
abnormal increase in left ventricular filling pressure with 
exercise. There was appropriate augmentation of right 
ventricular free wall motion.
CONCLUSION: Fair functional exercise capacity for age and 
gender. Ischemic ECG changes with no symptoms to achieved 
treadmill stress. No 2D echocardiographic evidence of inducible 
ischemia to achieved workload. No Doppler evidence for a change 
in left ventricular filling pressure with exercise. Mild mitral 
regurgitation at rest. Normal pulmonary artery systolic pressure 
at rest. Normal resting blood pressure with a normal blood 
pressure and a normal heart rate response to achieved workload.

Coronary angiography ___
Coronary Description
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the Left Anterior 
Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. The Diagonal, arising from the 
proximal segment, is a medium caliber vessel.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel. The ___ Obtuse Marginal, arising from the 
proximal segment, is a medium caliber vessel. The ___ Obtuse 
Marginal, arising from the mid segment, is a medium caliber 
vessel.
RCA: The Right Coronary Artery, arising from the mid cusp, is a 
large caliber vessel. The Right Posterior Descending Artery, 
arising from the distal segment, is a medium caliber vessel. The 
Right Posterolateral Artery, arising from the distal segment, is 
a medium caliber vessel.

DISCHARGE LABS:
___ 07:29AM BLOOD WBC-4.9 RBC-4.07* Hgb-13.5* Hct-41.3 
MCV-102* MCH-33.2* MCHC-32.7 RDW-13.5 RDWSD-50.4* Plt ___
___ 06:27AM BLOOD Neuts-56.9 ___ Monos-9.2 Eos-4.2 
Baso-1.3* Im ___ AbsNeut-2.60 AbsLymp-1.28 AbsMono-0.42 
AbsEos-0.19 AbsBaso-0.06
___ 07:29AM BLOOD ___ PTT-52.5* ___
___ 07:29AM BLOOD Glucose-96 UreaN-25* Creat-1.0 Na-141 
K-4.3 Cl-105 HCO3-24 AnGap-12
___ 07:29AM BLOOD Calcium-8.9 Phos-3.4 Mg-2.0
 
Brief Hospital Course:
Mr. ___ is a ___ with H/O hypertension, hyperlipidemia, and 
MGUS who presented to the emergency department with 2 days of 
lightheadedness and palpitations along with vague chest 
pressure. The patient said that he had been having these 
symptoms for the past week or so. Every day he would get 
lightheaded and palpitations along with chest pressure. This was 
not exacerbated by exertion and was not improved by rest, 
qualities atypical for ischemia. He had nonspecific EKG changes 
with serial negative troponin-T that might have represented 
unstable angina. He was started on a heparin infusion and loaded 
with aspirin. He underwent exercise stress echocardiography to 
___ METs with asymptomatic ischemic EKG changes with no 
inducible wall motion abnormalities on imaging. He then 
underwent coronary angiography that revealed no flow-limiting 
coronary artery stenosis. In retrospect, the patient's prior 
coronary angiography was for a similar scenario of asymptomatic 
ischemic ECG changes on a non-imaging exercise stress test, 
suggesting that this patient is prone to false-positive ECG 
changes on exercise stress tests. Patient was advised that the 
improved specificity of imaging for detection of ischemia during 
stress test would be important should he undergo stress testing 
in the future. On day of discharge, he was without chest pain. 
He was not started on any new medications (ASA was stopped) and 
no home medications were discontinued. Baclofen was continued 
for back pain and clonazepam for insomnia.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. ClonazePAM 0.5-1 mg PO QHS:PRN insomnia 
3. Atenolol 6.25 mg PO DAILY 
4. Baclofen 10 mg PO BID PRN Muscle Spasms 
5. Atorvastatin 20 mg PO QPM
 
Discharge Medications:
1.  Atenolol 6.25 mg PO DAILY  
2.  Atorvastatin 20 mg PO QPM  
3.  Baclofen 10 mg PO BID PRN Muscle Spasms  
4.  ClonazePAM 0.5-1 mg PO QHS:PRN insomnia  
5.  Lisinopril 20 mg PO DAILY
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Chest pain with qualities atypical for ischemia
-False positive electrocardiographic component of an exercise 
stress echocardiogram
-Hypertension
-Hyperlipidemia
-Chronic back pain
-Insomnia
-Monoclonal gammopathy of unknown significance
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,  
 It was a pleasure taking care of you at ___ 
___.  
  
WHY WAS I ADMITTED TO THE HOSPITAL?  
- You were admitted to the hospital because you felt pain and 
fluttering in your chest.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?  
- Your vital signs were stable and your lab tests were within 
normal limits. We got an EKG that looks at the electrical 
activity of your heart, which was normal. We also got a blood 
test called troponin that can be elevated in people with heart 
damage, we did not see an elevation in yours. You underwent a 
stress echocardiogram to look at how your heart walls move, and 
there was no discernable abnormality. We placed you on a 
medication called heparin to prevent your blood from forming 
clots in your arteries. You underwent a procedure called a 
cardiac catheterization that looks at the anatomy of your heart 
vessels. It showed *****

WHAT SHOULD I DO WHEN I GO HOME?  
- You should continue to take your medications as prescribed.  
- If you are experiencing new or concerning chest pain that is 
coming and going you should call the heartline at ___. 
If you are experiencing persistent chest pain that is not 
getting better with rest or nitroglycerine you should call ___.  

- You should also call the heartline if you develop swelling in 
your legs, abdominal distention, or shortness of breath at 
night.  
- You should attend the appointments listed below.  
  
We wish you the best!  
Your ___ Care Team
 
Followup Instructions:
___